US07148174B2
trans-N,N′-Bis(2-diphenylphosphanylbenzyl)cyclohexane-1,2-diamine
1.14 g (30 mmol) of sodium borohydride are added a little at a time to a solution of 3.30 g (5.0 mmol) of trans-N,N′-bis(2-diphenylphosphanylbenzylidene)cyclohexane-1,2-diamine in 60 ml of methanol. The solution is refluxed for 24 hours and, after cooling to room temperature, admixed with 20 ml of water. The organic phase is extracted with 3×50 ml of dichloromethane and the combined organic phases are washed with 2×30 ml of 10% ammonium chloride solution and 30 ml of water. After drying over magnesium sulfate, the solvent is removed under reduced pressure and the residue is recrystallized from 30 ml of ethanol. The product precipitates in the form of light-yellow crystals in a yield of 2.68 g (4.0 mmol, 80%). 1H-NMR (400 MHz, CDCl3): δ=7.65–6.92 (m, 28 H, aromat. H), 4.11, 3.98 (2×d, J=13.4 Hz, 4 H, Ar—CH2), 2.21 (m, 2H, NCH), 1.63–1.27 (m, 8H, (CH2)4) ppm.

reactant | sodium borohydride | 30 mmol, 1.14 g | [BH4-].[Na+]
reactant | trans-N,N′-bis(2-diphenylphosphanylbenzylidene)cyclohexane-1,2-diamine | 5.0 mmol, 3.30 g | C1(=CC=CC=C1)P(C1=C(C=N[C@H]2[C@@H](CCCC2)N=CC2=C(C=CC=C2)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C44H40N2P2
reactant | water | 20 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | trans-N,N′-Bis(2-diphenylphosphanylbenzyl)cyclohexane-1,2-diamine | C1(=CC=CC=C1)P(C1=C(CN[C@H]2[C@@H](CCCC2)NCC2=C(C=CC=C2)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C44H44N2P2
